US04603161
Alternative Preparation of 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)propanol
To a stirred slurry of 66.7 g (0.5 mole) aluminum chloride in 250 ml toluene, 103.0 g (0.5 mole) 2,6-di-tert-butylphenol dissolved in 250 ml toluene was slowly added through a dropping funnel under a nitrogen atmosphere and under dry ice/acetone bath cooling so as to maintain the temperature of the mixture at -25° C. to -20° C. The addition was complete in 10 minutes. To the resulting orange-yellow slurry, 87.0 g (1.5 mole) propylene oxide dissolved in 250 ml toluene dropwise with stirring was slowly added over a period of 1.5 hours while maintaining the temperature at -35° C. to -30° C. After stirring for an additional 0.5 hours, the mixture was worked up as described in Example 1 to give 21.2 g (16% yield) of the desired product as colorless needles. This product proved identical to that obtained in Example 1 based on IR and NMR analysis.

reactant | aluminum chloride | 0.5 mole, 66.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,6-di-tert-butylphenol | 0.5 mole, 103.0 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | propylene oxide | 1.5 mole, 87.0 g | C1C(C)O1 | C3H6O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)propanol | 21.2 g, 16% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CO)C | C17H28O2
